US08349830B2
4-(2-chloropyridin-3-yl)morpholine (2-1)
A 2-dram vial equipped with a stirbar was charged with Pd(OAc)2 (0.234 g, 1.044 mmol) and rac-BINAP (0.683 g, 1.096 mmol) as solids. Toluene (4 mL) was added via syringe, and the mixture was stirred for 10 min while being degassed with argon, and until a uniform tan suspension resulted. A 100-mL round-bottom flask was charged with 2-chloro-3-iodopyridine (1.25 g, 5.22 mmol) and Cs2CO3 (7.14 g, 21.93 mmol). Toluene (34.8 mL) was added followed by morpholine (0.542 ml, 6.26 mmol). This solution was degassed for 1 min under argon, and then the catalyst/ligand suspension was added via pasteur pipette. A reflux condenser was attached to the flask, and the reaction mixture was refluxed at 120° C. for 16 h. The reaction mixture was concentrated in vacuo, and then diluted with CH2Cl2 (150 mL). The organics were washed with 2×100 mL brine, dried over Na2SO4, filtered, and concentrated in vacuo. The material was purified by gradient elution on silica gel (5 to 75% [5% MeOH/EtOAc] in hexanes) to afford the title compound as light yellow solid (700 mg, 64%). Data for 2-1: 1H NMR (500 MHz, CDCl3) d 8.08 (dd, J=4.4, 1.5 Hz, 1H), 7.32 (dd, J=7.8, 1.5 Hz, 1H), 7.21 (dd, J=7.8, 4.5 Hz, 1H), 3.89 (dd, J=4.5, 4.5 Hz, 4H), 3.08 (dd, J=4.5, 4.5 Hz, 4H); HRMS m/z (M+H) 199.0630 found, 199.0633 required.

reactant | rac-BINAP | 1.096 mmol, 0.683 g | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | 2-chloro-3-iodopyridine | 5.22 mmol, 1.25 g | ClC1=NC=CC=C1I | C5H3ClIN
reactant | Cs2CO3 | 21.93 mmol, 7.14 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | morpholine | 6.26 mmol, 0.542 ml | N1CCOCC1 | C4H9NO
catalyst | Pd(OAc)2 | 1.044 mmol, 0.234 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | Toluene | 34.8 mL | C1(=CC=CC=C1)C | C7H8
solvent | Toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(2-chloropyridin-3-yl)morpholine | 700 mg, 64% | ClC1=NC=CC=C1N1CCOCC1 | C9H11ClN2O
